US08247112B2
To 236 g (0.5 mol) of a commercially available 25% solution of triethylphosphine (product name: HISHICOLIN (registered trademark) P-2, manufactured by Nippon Chemical Industrial Co., Ltd.) in toluene, 71 g (0.5 mol) of iodomethane (reagent, manufactured by Tokyo Chemical Industry Co., Ltd.) was added dropwise under a nitrogen atmosphere, and the mixture was reacted at 30 to 40° C. for 5 hours with stirring. After the reaction was completed, 100 ml of hexane was added to the reaction mixture to precipitate crystals. The resulting crystals were filtered and vacuum dried under a degree of vacuum of 0.5 kPa at 80° C. for 3 hours to obtain triethylmethylphosphonium iodide. Thereby, 116 g of triethylmethylphosphonium iodide was obtained (yield 89%). To 78 g (0.3 mol) of the resulting triethylmethylphosphonium iodide, 78 g of pure water was added to form a 50% aqueous solution. Thereto, was added 86 g (0.3 mol) of lithium bis(trifluoromethylsulfonyl)imide (reagent, manufactured by Kanto Chemical Co., Inc.) to allow them to react with each other, followed by stirring for 2 hours at room temperature (25° C.) to complete the reaction. After the completion of the stirring, precipitated crystals were separated by filtration and dissolved in acetone, followed by adding hexane thereto to recrystallize the crystals. The resulting crystals were filtered and vacuum dried under a degree of vacuum of 0.5 kPa at 80° C. for 3 hours. The structure of the resulting product was examined by 1H-NMR, 13C-NMR, 19F-NMR, and 31P-NMR. The product was identified as triethylmethylphosphonium bis(trifluoromethylsulfonyl)imide (TEMP-TFSI), and it had a purity of 99%. The resulting TEMP-TFSI was a white solid at room temperature (25° C.), which had a moisture content determined by the Karl Fischer titration method of 98 ppm and a chlorine content determined by ion chromatography of 13 ppm. The amount of the product yielded was 105 g (yield 85%).

reactant | triethylphosphine | C(C)P(CC)CC | C6H15P
reactant | iodomethane | 0.5 mol, 71 g | IC | CH3I
reactant | hexane | 100 ml | CCCCCC | C6H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | triethylmethylphosphonium iodide | [I-].C(C)[P+](C)(CC)CC | InChI=1S/C7H18P.HI/c1-5-8(4,6-2)7-3;/h5-7H2,1-4H3;1H/q+1;/p-1
